US07704995B2
To a solution of 5-(hydroxyprop-1-yn-1-yl)-2,3-dihydro-1H-indene-1-one (1.06 g, 5.71 mmol) in MeOH was added 10% Pd/C and hydrogenated by means of Pair shaker. After 12 h, the reaction mixture was filtered on Celite and concentrated in vacuo to give 5-(3-hydroxypropyl)-2,3-dihydro-1H-inden-1-one (1.03 g, 94% yield): MS (EI) for C12H14O2: 191.24 (MH+).

reactant | 5-(hydroxyprop-1-yn-1-yl)-2,3-dihydro-1H-indene-1-one | 5.71 mmol, 1.06 g | OCC#CC=1C=C2CCC(C2=CC1)=O | C12H10O2
solvent | MeOH | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 5-(3-hydroxypropyl)-2,3-dihydro-1H-inden-1-one | 1.03 g, 94% yield | OCCCC=1C=C2CCC(C2=CC1)=O | C12H14O2
